US04916146
3.45 g of D-proline was dissolved in 60 ml of 1N of sodium hydroxide and 30 ml of water. To the solution thus obtained, a solution prepared by dissolving 5.56 g of 4-phenylbutanoyl chloride in 30 ml of benzene was added dropwise with stirring. Subsequently, 30 ml of 1N sodium hydroxide was further added and the mixture was stirred at room temperature overnight. The benzene layer was removed and the water layer was washed twice with 50 ml of ether. To this water layer was added 7% hydrochloric acid to acidify it, followed by extraction with 70 ml of ethyl acetate three times. The extract was dried over anhydrous sodium sulfate. Ethyl acetate was evaporated to obtain an oily residue, which was treated with hexane to obtain 5.28 g of N-(4-phenylbutanoyl)-D-proline as colorless crystals.

reactant | D-proline | 3.45 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-phenylbutanoyl chloride | 5.56 g | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | hexane | CCCCCC | C6H14
solvent | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
product | N-(4-phenylbutanoyl)-D-proline | 5.28 g | C1(=CC=CC=C1)CCCC(=O)N1[C@@H](C(=O)O)CCC1 | C15H19NO3
